US08802704B2
Step 1: tert-butyl N-(4-cyanobenzyl)glycinate
The title compound was prepared following the general procedure 10, starting from 4-cyanobenzyl bromide and tert-butyl glycinate. It was isolated as a colorless oil. 1H NMR (DMSO-d6, 300 MHz) δ 7.78 (d, J=8.3 Hz, 2H), 7.52 (d, J=8.3 Hz, 2H), 3.79 (s, 2H), 3.19 (s, 2H), 2.60 (br s, 1H), 1.41 (s, 9H). HPLC (Method A) Rt 2.17 min (Purity: 97.2%).

reactant | 4-cyanobenzyl bromide | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | tert-butyl glycinate | NCC(=O)OC(C)(C)C | C6H13NO2
product | tert-butyl N-(4-cyanobenzyl)glycinate | C(#N)C1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C14H18N2O2
